US05792882
[G] N-[3-[3-(4-Fluorophenoxy)phenyl]-2-cyclopenten-1-yl]-N-hydroxyurea:
To a stirred solution of N-[3-[3-(4-fluorophenoxy)phenyl]cyclopent-2-enyl]-N-hydroxylamine (1.07 g; 3.75 mM) in dry THF (10 ml) was added trimethylsilyl isocyanate (0.76 g; 5.63 mM) at room temperature. After stirring for 1 hr, ethanol (10 ml) was added. Volatiles were removed, and the resulting solids were recrystallized from ethyl acetate-n-hexane to give 0.6 g (y. 28%) of the subtitle compound [G] as colorless solids.

reactant | N-[3-[3-(4-fluorophenoxy)phenyl]cyclopent-2-enyl]-N-hydroxylamine | 3.75 mM, 1.07 g | FC1=CC=C(OC=2C=C(C=CC2)C2=CC(CC2)NO)C=C1 | C17H16FNO2
reactant | trimethylsilyl isocyanate | 5.63 mM, 0.76 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[3-[3-(4-Fluorophenoxy)phenyl]-2-cyclopenten-1-yl]-N-hydroxyurea | FC1=CC=C(OC=2C=C(C=CC2)C2=CC(CC2)N(C(=O)N)O)C=C1 | C18H17FN2O3
